US07745641B2
In a similar manner to Step 2 of Example 1, 4-chloro-7-iodoisoindolinone (68.4 mg, 0.230 mmol) was dissolved in acetonitrile (1.4 mL), and the solution was treated with 1-(tert-butoxycarbonyl)-5-cyanoindole-2-boronic acid (100 mg, 0.350 mmol) synthesized in a similar manner to the method described in Journal of Organic Chemistry, 2002, vol. 67, p. 7551, palladium acetate (4.1 mg, 0.018 mmol) and triethylamine (0.321 mL, 2.30 mmol), followed by purification by preparative thin-layer chromatography (hexane/ethyl acetate=1/1) to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-cyanoindol-2-yl]isoindolinone (40.2 mg).

reactant | 4-chloro-7-iodoisoindolinone | 0.230 mmol, 68.4 mg | ClC1=C2CNC(C2=C(C=C1)I)=O | C8H5ClINO
reactant | 1-(tert-butoxycarbonyl)-5-cyanoindole-2-boronic acid | 0.350 mmol, 100 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)C#N)B(O)O | C14H15BN2O4
reactant | triethylamine | 2.30 mmol, 0.321 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.4 mL | C(C)#N | C2H3N
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
catalyst | palladium acetate | 0.018 mmol, 4.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-cyanoindol-2-yl]isoindolinone | 40.2 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C#N)C(=O)OC(C)(C)C)=O | C22H18ClN3O3
